US04956382
(B) N-Methyl-N-(6-nitrobenzoxazol-2-ylmethyl)-4-nitrophenethylamine
N-Methyl-4-nitrophenethylamine (0.84 g, 4.7 mmole), 2-bromomethyl-6-nitrobenzofuran (1.2 g, 4.7 mmole), sodium iodide (0.7 g, 4.7 mmole) and potassium carbonate (0.71 g, 5.2 mmole) were heated in acetonitrile at the reflux temperature for 18 hours. The cooled reaction mixture was then filtered and the filtrate evaporated to dryness and purified by chromatography on silica eluting with methylene chloride/hexane (1:1) followed by methylene chloride/methanol (19:1). The product-containing fractions were combined and evaporated and the residue was treated with decolourising charcoal in ethanol to afford an oil which solidified on standing. Recrystallisation of the solid from ethanol/methylene chloride gave the title compound, yield 0.27 g, m.p. 69°-69.5°.

reactant | N-Methyl-4-nitrophenethylamine | 4.7 mmole, 0.84 g | CNCCC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | 2-bromomethyl-6-nitrobenzofuran | 4.7 mmole, 1.2 g | BrCC=1OC2=C(C1)C=CC(=C2)[N+](=O)[O-] | C9H6BrNO3
reactant | sodium iodide | 4.7 mmole, 0.7 g | [I-].[Na+]
reactant | potassium carbonate | 5.2 mmole, 0.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | N-Methyl-N-(6-nitrobenzoxazol-2-ylmethyl)-4-nitrophenethylamine | CN(CC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-])CCC2=CC=C(C=C2)[N+](=O)[O-] | C17H16N4O5
